US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-phenyl-imidazole dihydrochloride
6 ml of 32% hydrochloric acid (Merck, Darmstadt, Germany; p.a.) are added, with stirring, to a mixture of 4.1 g (0.02 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 3.5 g (0.02 mol) of 1,2-diamino-4-phenyl-imidazole (see Beyer H. et al., Chem. Ber. 101, 3151 (1968)) and 150 ml of isopropanol, and the mixture is stirred at 80° C. for 5 hours. During that time, the starting materials dissolve and the title compound gradually crystallizes out. At the end of the reaction time, the mixture is cooled. The product that has crystallized out is filtered off with suction, washed with isopropanol and dried. The product crystallizes with one mole of isopropanol, m.p. 238°-240° C., 1H-NMR (DMSO/D2O): δ=8.24 (d, 1H); 7.88 (s, 1H); 7.73 (d, 1H); 7.55-7.68 (m, 3H); 7.34-7.5 (m, 3H); 3.26 (s, 4H).

reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.02 mol, 4.1 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-phenyl-imidazole | 0.02 mol, 3.5 g | NN1C(=NC(=C1)C1=CC=CC=C1)N | C9H10N4
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | isopropanol | one mole | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-phenyl-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=CC=C1)N | InChI=1S/C19H18N6O.2ClH/c20-18(24-26)15-8-4-7-14-13(15)9-10-16(14)23-25-11-17(22-19(25)21)12-5-2-1-3-6-12;;/h1-8,11,26H,9-10H2,(H2,20,24)(H2,21,22);2*1H
